US04215139
6.4 g of 2-(p-benzoylphenoxy)ethylamine and 17.2 g of chlorothioformic acid S-ethyl ester are dissolved in 230 ml of acetone, 22.2 g of potassium carbonate are added to the solution. The mixture is heated under reflux for 6 hours. After cooling to room temperature, the mixture is filtered, the residue is washed with acetone and the filtrate is evaporated in vacuo. The residue is suspended in hot ether and filtered. The residue is then washed with ether and the filtrate is evaporated in vacuo. Recrystallization of the residue from ether yields 2-(p-benzoylphenoxy)ethylthiocarbamic acid S-ethyl ester, m.p.--90°-92° C. Recrystallization of the mother liquor yields a further 1 g of product.

reactant | 2-(p-benzoylphenoxy)ethylamine | 6.4 g | C(C1=CC=CC=C1)(=O)C1=CC=C(OCCN)C=C1 | C15H15NO2
reactant | chlorothioformic acid S-ethyl ester | 17.2 g | C(C)SC(=O)Cl | C3H5ClOS
reactant | potassium carbonate | 22.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 230 ml | CC(=O)C | C3H6O
product | 2-(p-benzoylphenoxy)ethylthiocarbamic acid S-ethyl ester | C(C)SC(NCCOC1=CC=C(C=C1)C(C1=CC=CC=C1)=O)=O | C18H19NO3S
